US04929613
Ethyl 4-(1-acetyl-1,2,3,6-tetrahydro-4-pyridyl)-α-[(cyclopropylamino)methylene]-2,5-difluoro-β-oxobenzenepropionate.
A solution of 4.50 g (11.06 mmol) of ethyl 4-(1-acetyl-1,2,3,6-tetrahydro-4-pyridyl)-α-(ethoxymethylene)-2,5-difluoro-β-oxobenzenepropionate in 50 ml of ethyl ether was treated with 0.77 g (13.5 mmol) of cyclopropylamine and stirred for 22 hours. The title compound was isolated as a syrup after evaporation under vacuum.

reactant | ethyl 4-(1-acetyl-1,2,3,6-tetrahydro-4-pyridyl)-α-(ethoxymethylene)-2,5-difluoro-β-oxobenzenepropionate | 11.06 mmol, 4.50 g | C(C)(=O)N1CCC(=CC1)C1=CC(=C(C=C1F)C(C(C(=O)OCC)=COCC)=O)F | C21H23F2NO5
reactant | cyclopropylamine | 13.5 mmol, 0.77 g | C1(CC1)N | C3H7N
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | Ethyl 4-(1-acetyl-1,2,3,6-tetrahydro-4-pyridyl)-α-[(cyclopropylamino)methylene]-2,5-difluoro-β-oxobenzenepropionate | C(C)(=O)N1CCC(=CC1)C1=CC(=C(C=C1F)C(C(C(=O)OCC)=CNC1CC1)=O)F | C22H24F2N2O4
